US08217065B2
B. 4-[5-(4-Methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-2-nitrophenylamine
A solution of 4-methoxybenzoic acid N′-(4-amino-3-nitrobenzoyl)-hydrazide (750 mg, 2.27 mmol) and Burgess reagent (1.62 g, 6.81 mmol) in THF (15 mL) was microwaved at 150° C. for 20 min. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (heptane/EtOAc=1:3) to give the title compound as a yellow solid. MS: m/z 313 (M+1).

reactant | 4-methoxybenzoic acid N′-(4-amino-3-nitrobenzoyl)-hydrazide | 2.27 mmol, 750 mg | NC1=C(C=C(C(=O)NNC(C2=CC=C(C=C2)OC)=O)C=C1)[N+](=O)[O-] | C15H14N4O5
reactant | Burgess reagent | 6.81 mmol, 1.62 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-[5-(4-Methoxyphenyl)-[1,3,4]oxadiazol-2-yl]-2-nitrophenylamine | COC1=CC=C(C=C1)C1=NN=C(O1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C15H12N4O4
